US09260441B2
Step C: 2-Bromo-6-methyl-4-ethoxy-pyridine 1-oxide
2-Bromo-6-methyl-4-nitro-pyridine 1-oxide (1 g, 4.3 mmol) was dissolved in ethanol (anhydrous, 50 ml), and sodium ethoxide (21% in ethanol, 1.4 ml, 4.3 mmol) was added dropwise with stirring. The mixture was stirred at room temperature overnight, concentrated under reduced pressure, the residue was taken up in DCM (50 ml), the mixture was washed with water (50 ml), dried (sodium sulfate) and concentrated under reduced pressure to yield 0.84 g of brown yellow crystals (3.6 mmol, 84%).

reactant | 2-Bromo-6-methyl-4-nitro-pyridine 1-oxide | 4.3 mmol, 1 g | BrC1=[N+](C(=CC(=C1)[N+](=O)[O-])C)[O-] | C6H5BrN2O3
reactant | sodium ethoxide | 4.3 mmol, 1.4 ml | [O-]CC.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Bromo-6-methyl-4-ethoxy-pyridine 1-oxide | 3.6 mmol, 0.84 g, 84% | BrC1=[N+](C(=CC(=C1)OCC)C)[O-] | C8H10BrNO2
